US05011849
2.0 g (6.7 mmol) of methyl 2-bromo-5-phenyl-4thiazolecarboxylate and 1.61 g (10.1 mmol) of t-butyl (2-aminoethyl)carbamate were stirred under reduced pressure for 2.5 hours at 110° bath temperature, whereby the methanol formed was distilled off continuously. After chromatography on 100 g of silica gel with methylene chloride and a 4:1 mixture of methylene chloride and ethyl acetate there was obtained 0.58 g (26%) of t-butyl [2-(2-bromo-5-phenyl-4-thiazolecarboxamido)ethyl]carbamate as a pale yellow, crystallizing oil which was used directly.

reactant | methyl 2-bromo-5-phenyl-4thiazolecarboxylate | 6.7 mmol, 2.0 g | BrC=1SC(=C(N1)C(=O)OC)C1=CC=CC=C1 | C11H8BrNO2S
reactant | t-butyl (2-aminoethyl)carbamate | 10.1 mmol, 1.61 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | methanol | CO | CH4O
product | t-butyl [2-(2-bromo-5-phenyl-4-thiazolecarboxamido)ethyl]carbamate | 0.58 g, 26% | BrC=1SC(=C(N1)C(=O)NCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H20BrN3O3S
